2109-08-10 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2109-8-9**] 10:53 PM
   Was slightly improved overnight, currently arousing to verbal stimuli
   but still very confused and not answering questions appropriately.
   Required restraints overnight given confusion.
   Art line attempted several times without success.
   BP was difficult to measure given PICC in R arm, fistula in L arm and
   large thighs.  Largely ranged in the 80-90
s systolic with 50-60s
   MAPS.  Gentle boluses were given to keep BP
s in this range.
   Allergies:
   Heparin Agents
   Hives;
   Coumadin (Oral) (Warfarin Sodium)
   Confusion/Delir
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Anesthesia Tray (Miscell.)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2109-8-10**] 02:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-10**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 89 (77 - 95) bpm
   BP: 96/47(59) {75/13(36) - 108/54(76)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
             300 mL
   PO:
             TF:
   IVF:
   300 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.44/47/160/28/7
   PaO2 / FiO2: 8,000
   Physical Examination
   Gen- NAD, Aox1, does NOT answer ?
s appropriately
   HEENT- openning eyes to verbal commands, L EJ in place
   CV- distant Heart sounds, Irregular rhythm
   Pulm- distant lung sounds, no W/R/R appreciated anteriorly
   Abd- Soft, NT, Ventral Hernia easily reducible.
   Extr- Thin legs with very dry skin on feet, no edema, WWP
   Labs / Radiology
   39 K/uL
   6.5 g/dL
   83 mg/dL
   4.0 mg/dL
   28 mEq/L
   4.5 mEq/L
   22 mg/dL
   101 mEq/L
   139 mEq/L
   22.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2109-8-10**]  12:00 AM
                             [**2109-8-10**]  02:55 AM
   WBC
   6.8
   Hct
   22.8
   Plt
   39
   Cr
   4.0
   TropT
   0.11
   TCO2
   33
   Glucose
   83
   Other labs: PT / PTT / INR:18.3/36.5/1.7, CK / CKMB /
   Troponin-T:32/4/0.11, ALT / AST:20/35, Alk Phos / T Bili:130/1.1,
   Amylase / Lipase:151/276, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL,
   LDH:315 IU/L, Ca++:10.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   60 y.o. F with type 1 DM, ESRD on HD, breast cancer, and pulmonary
   sarcoidosis who was at scheduled hemodialysis session when she was
   noted to become unresponsive for 8 minutes with normal vital signs.
   .
   # Unresponsiveness/Altered Mental Status: Occurred for 8 minute
   duration at HD with normal VS.  Per recent discharge summary, pt has
   history of unresponsive episodes that occur frequently at HD. Consider
   seizure disorder, hypoglycemia, hypercarbia, hypotension, acute cardiac
   event, acute PE.  CT head negative. EKG with no acute changes.
   - cycle CE x 3 to ROMI (elevated troponin likely [**1-12**] demand ischemia)
   - monitor on telemetry
   - monitor FS
   - follow up blood cultures
   - consider CTA if possible for PE
   - q 2 hour neuro checks
   - random cortisol was normal but diurnal variation may indicate
   abnormality.  Pt on chronic steroids
   - hold all sedating meds
   .
   # Abdominal pain: Largely resolved today , but with MS changes, it is
   difficult to tell if patient really improving
   - trend LFTs, amylase, lipase
   - NPO, bowel rest
   - RUQ U/S with LFT abnormalities.
   .
   # Hypothyroisim: TSH was high today at ~12
   -Free T4 added on
   -increase synthroid to 50 mcg.
   .
   # Hypercalcemia: ca of 10.5, with alb corrects to >11.0
   - call renal for ? HD today
   .
   # Thrombocytopenia: DIC vs. TTP-HUS vs. heparin induced
   thrombocytopenia vs. vancomcyin induced thrombocytopenia from previous
   notes.
   - send peripheral smear
   - check DIC labs
   - add on LDH and fractionate bilirubin
   - trend plts
   .
   # ESRD: Scheduled HD on T/Th/Sat.  Followed by Dr. [**First Name8 (NamePattern2) 208**] [**Last Name (NamePattern1) 2759**] at
   [**Hospital1 54**].
   - contact renal fellow about HD today
   - continue sevelamer
   - monitor lytes and Cr
   - avoid nephrotoxins
   .
   # Diabetes Mellitus, Type 1:
   - FS QID with HISS
   - hold standing home doses for now
   .
   # Hypertension: SBP 100s
   - hold antihypertensives
   .
   # Asthma: continue albuterol nebs
   .
   # Atrial Fibrillation: continue amiodarone
   .
   # Sarcoidosis: continue prednisone
   .
   # Breast Cancer: continue anastrozole
   .
   # OSA: On bipap nightly per family.
   - ABG to r/o hypercarbia
   - place on bipap per settings in chart
   .
   # FEN: no IVFs / replete lytes prn / NPO except meds / Vit D for
   chronic steroid use
   .
   # ACCESS: PICC, L E-J, re-attempt a-line as pt BP labile
   .
   # PPX: pneumoboots (? HIT history and low platelets) / PPI
   .
   # COMM: with HCP [**Name (NI) 4863**] [**Name (NI) 4862**] (home [**Telephone/Fax (1) 4864**], cell [**Telephone/Fax (1) 4865**])
   .
   # CODE: Full confirmed with patient
   .
   # DISPO: ICU care pending above.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-8-9**] 10:33 PM
   PICC Line - [**2109-8-9**] 10:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-10 10:07:00 Physician Attending Progress Note
Chief Complaint: Unresponsive
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old female with IDDM, ESRD on HD t/th/sa, pulm sarcoidosis.
   During HD, unresponsive x 8 minutes with normal VS. Daughter noted
   oxygen off, head back with eyes rolling.
   Prior occurrence during HD inconsistently with hypotension
   In ED; n'l VS. zosyn/clinda, 1 liter NS
   24 Hour Events:
 PICC LINE - START [**2109-8-9**] 10:53 PM
   History obtained from Patient, Family / Friend, MICU [**Name2 (NI) 4534**]
   Allergies:
   Heparin Agents
   Hives;
   Coumadin (Oral) (Warfarin Sodium)
   Confusion/Delir
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Anesthesia Tray (Miscell.)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2109-8-10**] 02:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Prednisone 5 mg, albuterol, amiodarone, insulin, vit D, synthroid,
   Renagel, ranitidine
   Changes to medical and family history:
   OSA, sarcoidosis, afib
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-10**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 94 (77 - 95) bpm
   BP: 93/40(48) {75/13(36) - 108/59(76)} mmHg
   RR: 19 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
             326 mL
   PO:
             TF:
   IVF:
   326 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.44/47/160/28/7
   PaO2 / FiO2: 8,000
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), right fistula
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Obese, large
   ventral hernia
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Noxious stimuli,
   Movement: Not assessed, Tone: Not assessed, Answers some commands
   Labs / Radiology
   6.5 g/dL
   39 K/uL
   83 mg/dL
   4.0 mg/dL
   28 mEq/L
   4.5 mEq/L
   22 mg/dL
   101 mEq/L
   139 mEq/L
   22.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2109-8-10**]  12:00 AM
                             [**2109-8-10**]  02:55 AM
   WBC
   6.8
   Hct
   22.8
   Plt
   39
   Cr
   4.0
   TropT
   0.11
   TCO2
   33
   Glucose
   83
   Other labs: PT / PTT / INR:18.3/36.5/1.7, CK / CKMB /
   Troponin-T:32/4/0.11, ALT / AST:20/35, Alk Phos / T Bili:130/1.1,
   Amylase / Lipase:151/276, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL,
   LDH:315 IU/L, Ca++:10.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Imaging: Head CT: no hemorrhage/infarct
   CT torso: anasarca, small pleural effusions
   Assessment and Plan
   Imp:
   Acute MS changes: partial improvement this am but not at baseline
     Elevated TSH
     Hypercalcemia
   Abn
l LFT
   ESRD
   Acute blood loss anemia/GI bleed/hypovolemic hypotension
   Thrombocytopenia (chronic over several months)
   Sarcoidosis
   OSA
   PulmHTN multifact. (OSA/diastolic dysfunction/obesity)
   Plan:
   *MS changes: f/u studies (adrenals, etc.), obtain more history from
   daughter
   [**Name (NI) **] sedating medicines
   f/u additional thyroid studies
   *Attempt a-line as recent BP readings suggest hypotension, but
   unreliable
   *Transfuse blood, monitor hct
   *Check RUQ U/S given cholilith. And high amylase/lipase
   *Renal consult due to ESRD on HD
   *Other plans as per ICU [**Name (NI) 4534**] note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2109-8-9**] 10:33 PM
   PICC Line - [**2109-8-9**] 10:53 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Pt is critically ill
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2109-08-11 08:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had HD last night.  Increase agitation, received haldol 1.5 with small
   effect.
   RUQ U/S some GB wall thickness, no CBD dilation.
   Received 2 units PRBCs o/n HCT 25.5 to 32.0.
   Received I unit Plts., bumped to 70 but back down to 37.
   3x Guaiac positive stool overnight.
   Allergies:
   Heparin Agents
   Hives;
   Coumadin (Oral) (Warfarin Sodium)
   Confusion/Delir
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Anesthesia Tray (Miscell.)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2109-8-10**] 02:18 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2109-8-10**] 09:00 AM
   Pantoprazole (Protonix) - [**2109-8-10**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-11**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 95 (85 - 110) bpm
   BP: 86/45(54) {73/29(36) - 119/70(79)} mmHg
   RR: 12 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88.2 kg (admission): 87.7 kg
   Height: 60 Inch
           Total In:
                                                                  1,465 mL
                                                                    954 mL
   PO:
                                                                    240 mL
           TF:
   IVF:
                                                                    480 mL
                                                                     78 mL
   Blood products:
                                                                    745 mL
                                                                    876 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,465 mL
                                                                    954 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   34 K/uL
   10.1 g/dL
   80 mg/dL
   3.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   19 mg/dL
   100 mEq/L
   141 mEq/L
   32.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2109-8-10**]  12:00 AM
                             [**2109-8-10**]  02:55 AM
                             [**2109-8-10**]  10:27 AM
                             [**2109-8-10**]  12:40 PM
                             [**2109-8-10**]  07:07 PM
                             [**2109-8-11**]  03:20 AM
   WBC
   6.8
   6.5
   Hct
   22.8
   23.8
   25.5
   32.0
   Plt
   39
   70
   34
   Cr
   4.0
   3.6
   TropT
   0.11
   0.12
   TCO2
   33
   Glucose
   83
   80
   Other labs: PT / PTT / INR:17.4/36.5/1.6, CK / CKMB /
   Troponin-T:30/4/0.12, ALT / AST:25/40, Alk Phos / T Bili:132/2.0,
   Amylase / Lipase:155/144, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL,
   LDH:339 IU/L, Ca++:10.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   60 y.o. F with type 1 DM, ESRD on HD, breast cancer, and pulmonary
   sarcoidosis who was at scheduled hemodialysis session when she was
   noted to become unresponsive for 8 minutes with normal vital signs.
   .
   # Altered Mental Status: Occurred for 8 minute duration at HD with
   normal VS.  Pt has history of unresponsive episodes that are likely to
   to fluid shifs during HD. Per daughter this has happened once before
   and the patient took 1 week to recover.  Etiology still unclear, most
   likely hypotension vs. hypercalcemia vs. GI bleed vs. hypothyroid (or a
   result of all of these contributing factors.  Could also consider
   seizure disorder, hypoglycemia, hypercarbia.  Unlikely acute cardiac
   event, acute PE.  CT head negative.  EKG with no acute changes, CE
   negative.  Awake and agitated overnight. Given 1.5 mg of haldol with
   good result.
   - HD yesterday, hypercalcemia better but not resolved, uremia
   resolved.  MS not improved today.
   - q 2 hour neuro checks
   - random morning cortisol was normal but diurnal variation may indicate
   abnormality.  Pt on chronic steroids
   - chronic prednisone [**First Name8 (NamePattern2) **] [**Last Name (un) 45**] stim is not useful, could consider stress
   dose steroids to see if she responds.
   - if no improvement, and no clear etiology, would consider LP, but
   given PLT count, risky.
   - trend ABG today
   # GI Bleed: Guaiac positive stool yesterday, HCT drop, bumped
   appropriately overnight.  Given abdominal pain, could be ulcer vs.
   divertic.  GI following.
   - IV PPI
   - NPO, bowel rest
   -guaiac all stools
   -GI C/s for ? scope
   #Abdominal Pain:  With chronically elevated LFTs, RUQ U/S yesterday did
   not show any acute pathology.
   - trend LFTs, amylase, lipase
   - Pain plus GI bleed is concerning for UGI bleed.
   - GI C/S
   # Hypothyroisim: Synthroid increased yesterday to 50 (from 25).  T4
   Nl.  T3 mildly decreased.
   # Hypercalcemia: yesterday ca of 10.5, with alb corrects to >11.0.
   - HD yesterday, now resolved.
   # Thrombocytopenia: Chronic. DIC vs. TTP-HUS vs. heparin induced
   thrombocytopenia vs. vancomcyin induced thrombocytopenia from previous
   notes.  T. Bili up today
   -peripheral smear
   -add on fractionated Bili
   - trend plts
   -transfuse for plt >50 given active GI bleed.
   .
   # ESRD: Scheduled HD on T/Th/Sat.  Followed by Dr. [**First Name8 (NamePattern2) 208**] [**Last Name (NamePattern1) 2759**] at
   [**Hospital1 54**].
   - continue sevelamer
   - monitor lytes and Cr
   - avoid nephrotoxins
   - Plan for HD on Tuesday.
   .
   # Diabetes Mellitus, Type 1:
   - FS QID with HISS
   - hold standing home doses for now
   .
   # Hypertension: SBP 100s
   - hold antihypertensives
   .
   # Asthma: continue albuterol nebs
   .
   # Atrial Fibrillation: continue amiodarone
   .
   # Sarcoidosis: continue prednisone
   .
   # Breast Cancer: continue anastrozole
   .
   # OSA: Continue Bipap while sleeping
   # FEN: no IVFs / replete lytes prn / NPO except meds / D/C Vit. D given
   hypercalcemia
   .
   # ACCESS: PICC, L E-J,
   .
   # PPX: pneumoboots (? HIT history and low platelets) / PPI
   .
   # COMM: with HCP [**Name (NI) 4863**] [**Name (NI) 4862**] (home [**Telephone/Fax (1) 4864**], cell [**Telephone/Fax (1) 4865**])
   .
   # CODE: Full confirmed with patient
   .
   # DISPO: ICU care pending above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-8-9**] 10:33 PM
   PICC Line - [**2109-8-9**] 10:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-11 09:19:00 Physician Attending Progress Note
Chief Complaint: confusion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt with sarcoidosis and ESRD on HD admitted with confusion post-HD
   24 Hour Events:
 ULTRASOUND - At [**2109-8-10**] 01:42 PM
   RUQ at bedside: gallstones, no wall thickening
   *HD with subsequently more agitation
   *Transfused 1 pk platelets and  4 units blood for acute blood loss
   anemia/melana
   *Synthroid increased
   History obtained from Medical records, ICU
   Patient unable to provide history: Encephalopathy
   Allergies:
   Heparin Agents
   Hives;
   Coumadin (Oral) (Warfarin Sodium)
   Confusion/Delir
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Anesthesia Tray (Miscell.)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2109-8-10**] 02:18 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2109-8-10**] 09:00 AM
   Pantoprazole (Protonix) - [**2109-8-11**] 08:00 AM
   Other medications:
   vit D, Prednisone, amiodarone, renagel, synthroid, SSI, protonix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-11**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 103 (85 - 110) bpm
   BP: 100/67(72) {73/29(36) - 119/70(79)} mmHg
   RR: 26 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88.2 kg (admission): 87.7 kg
   Height: 60 Inch
           Total In:
                                                                  1,465 mL
                                                                    976 mL
   PO:
                                                                    240 mL
           TF:
   IVF:
                                                                    480 mL
                                                                    100 mL
   Blood products:
                                                                    745 mL
                                                                    876 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,465 mL
                                                                    976 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   34 K/uL
   80 mg/dL
   3.6 mg/dL
   28 mEq/L
   4.3 mEq/L
   19 mg/dL
   100 mEq/L
   141 mEq/L
   32.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2109-8-10**]  12:00 AM
                             [**2109-8-10**]  02:55 AM
                             [**2109-8-10**]  10:27 AM
                             [**2109-8-10**]  12:40 PM
                             [**2109-8-10**]  07:07 PM
                             [**2109-8-11**]  03:20 AM
   WBC
   6.8
   6.5
   Hct
   22.8
   23.8
   25.5
   32.0
   Plt
   39
   70
   34
   Cr
   4.0
   3.6
   TropT
   0.11
   0.12
   TCO2
   33
   Glucose
   83
   80
   Other labs: PT / PTT / INR:17.4/36.5/1.6, CK / CKMB /
   Troponin-T:30/4/0.12, ALT / AST:25/40, Alk Phos / T Bili:132/2.0,
   Amylase / Lipase:155/144, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL,
   LDH:339 IU/L, Ca++:10.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   60 year old bf with pulm sarcoidosis, ESRD on HD admitted with
   confusion. Post-HD onset suggests potential  component of dialysis
   disequilibtrium, with other contributing factors including GI
   bleed/acute blood loss anemia, hypercalcemia, hypothyroidism
   Altered Mental Status
   *Mild improvement initially but appears more somnolent- reasons for
   worsening--? CO2 narcosis, meds/sundowning
   *Obtain ABG this am
   GI bleed/acute blood loss anemia
   *Hct up appropriately after transfusion, no further overt bleed
   *On PPI, serial Hct's
   *Also obtain peripheral smear off pre-transfusion blood drawws,
   fractionate bili's to r/o hemolysis component
   Hypercalcemia: slightly improved. D/c vitamin D
   Thrombocytopenia: Slow decrease over past couple months. Transfuse to
   keep >50 if bleeding
   ESRD: HD yesterday. Renal following
   Hypothyroidism: Synthroid increased yesterday
   IDDM: SSI
   OSA: biPAP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-8-9**] 10:33 PM
   PICC Line - [**2109-8-9**] 10:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2109-08-12 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   MS improved from yesterday AM but remains quite confused.
   DIC labs: FDP incr, D-dimer incr, but fibrinogen normal.  Peripheral
   smear with 1+ schisto.  Difficult to interpret in the setting of ESRD
   on HD
   - Plt imrpoved last PM to 87
   GI indicated endoscopy would be high risk with such low plt, suggested
   IV protonix 8mg [**Hospital1 **]
   Neuro evaled and indicated that confusion most likely metabolic.
   Ammonia -> 59. EEG ordered.  Suggested MRI to r/o infarct -> ? if pt
   can lay still for 1hr.
   Renal
 HD today.  If MS does not improve, consider central venous
   imaging to R/o SVC stenosis
   Allergies:
   Heparin Agents
   Hives;
   Coumadin (Oral) (Warfarin Sodium)
   Confusion/Delir
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Anesthesia Tray (Miscell.)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2109-8-10**] 02:18 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-8-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-12**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 79 (79 - 103) bpm
   BP: 105/50(64) {81/43(52) - 123/72(83)} mmHg
   RR: 7 (0 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88.2 kg (admission): 87.7 kg
   Height: 60 Inch
             Total In:
                                                                  1,246 mL
                                                                     64 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    250 mL
                                                                     64 mL
   Blood products:
                                                                    876 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,246 mL
                                                                     64 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.34/49/84.[**Numeric Identifier 1625**]/25/0
   Physical Examination
   Gen- NAD, Aox1
   CV- Distant heart sounds. Irreg irreg, no murmurs
   Pulm- Distant breath sounds, CTAB anteriorly
   Abd- obese, soft, NT, large soft  ventral hernia
   Extr- LE wasted musculature, poor foot hygene but no ulcers
   Labs / Radiology
   87 K/uL
   10.1 g/dL
   63 mg/dL
   4.6 mg/dL
   25 mEq/L
   4.6 mEq/L
   27 mg/dL
   101 mEq/L
   140 mEq/L
   33.9 %
   6.5 K/uL
        [image002.jpg]
                             [**2109-8-10**]  10:27 AM
                             [**2109-8-10**]  12:40 PM
                             [**2109-8-10**]  07:07 PM
                             [**2109-8-11**]  03:20 AM
                             [**2109-8-11**]  06:03 AM
                             [**2109-8-11**]  09:40 AM
                             [**2109-8-11**]  09:49 AM
                             [**2109-8-11**]  04:15 PM
                             [**2109-8-11**]  11:29 PM
                             [**2109-8-12**]  05:32 AM
   WBC
   6.5
   Hct
   23.8
   25.5
   32.0
   30.3
   32.8
   33.9
   Plt
   70
   34
   80
   86
   87
   Cr
   3.6
   4.1
   4.6
   TropT
   0.12
   TCO2
   28
   Glucose
   80
   71
   63
   Other labs: PT / PTT / INR:17.4/36.5/1.6, CK / CKMB /
   Troponin-T:30/4/0.12, ALT / AST:25/40, Alk Phos / T Bili:132/2.0,
   Amylase / Lipase:155/144, D-dimer:3965 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:2.1 mmol/L, Albumin:2.7 g/dL, LDH:339 IU/L, Ca++:10.4
   mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   60 y.o. F with type 1 DM, ESRD on HD, breast cancer, and pulmonary
   sarcoidosis who was at scheduled hemodialysis session when she was
   noted to become unresponsive for 8 minutes with normal vital signs.
   .
   # Altered Mental Status: Occurred for 8 minute duration at HD with
   normal VS.  Pt has history of unresponsive episodes that are likely to
   to fluid shifs during HD. Per daughter this has happened once before
   and the patient took 1 week to recover.  Etiology still unclear, most
   likely hypotension vs. hypercalcemia vs. GI bleed vs. hypothyroid (or a
   result of all of these contributing factors.  Could also consider
   seizure disorder, hypoglycemia, hypercarbia.  Unlikely acute cardiac
   event, acute PE.  CT head negative.  EKG with no acute changes, CE
   negative.  Awake and agitated overnight. Given 1.5 mg of haldol with
   good result.
   - HD yesterday, hypercalcemia better but not resolved, uremia
   resolved.  MS not improved today.
   - q 2 hour neuro checks
   - random morning cortisol was normal but diurnal variation may indicate
   abnormality.  Pt on chronic steroids
   - chronic prednisone [**First Name8 (NamePattern2) **] [**Last Name (un) 45**] stim is not useful, could consider stress
   dose steroids to see if she responds.
   - if no improvement, and no clear etiology, would consider LP, but
   given PLT count, risky.
   - trend ABG today
   # GI Bleed: Guaiac positive stool yesterday, HCT drop, bumped
   appropriately overnight.  Given abdominal pain, could be ulcer vs.
   divertic.  GI following.
   - IV PPI
   - NPO, bowel rest
   -guaiac all stools
   -GI C/s for ? scope
   #Abdominal Pain:  With chronically elevated LFTs, RUQ U/S yesterday did
   not show any acute pathology.
   - trend LFTs, amylase, lipase
   - Pain plus GI bleed is concerning for UGI bleed.
   - GI C/S
    # Hypothyroisim: Synthroid increased yesterday to 50 (from 25).  T4
   Nl.  T3 mildly decreased.
   # Hypercalcemia: yesterday ca of 10.5, with alb corrects to >11.0.
   - HD yesterday, now resolved.
   # Thrombocytopenia: Chronic. DIC vs. TTP-HUS vs. heparin induced
   thrombocytopenia vs. vancomcyin induced thrombocytopenia from previous
   notes.  T. Bili up today
   -peripheral smear
   -add on fractionated Bili
   - trend plts
   - transfuse for plt >50 given active GI bleed.
   .
   # ESRD: Scheduled HD on T/Th/Sat.  Followed by Dr. [**First Name8 (NamePattern2) 208**] [**Last Name (NamePattern1) 2759**] at
   [**Hospital1 54**].
   - continue sevelamer
   - monitor lytes and Cr
   - avoid nephrotoxins
   - Plan for HD today.
   .
   # Diabetes Mellitus, Type 1:
   - FS QID with HISS
   - hold standing home doses for now
   .
   # Hypertension: SBP 100s
   - hold antihypertensives
   .
   # Asthma: continue albuterol nebs
   .
   # Atrial Fibrillation: continue amiodarone
   .
   # Sarcoidosis: continue prednisone
   .
   # Breast Cancer: continue anastrozole
   .
   # OSA: Continue Bipap while sleeping
   # FEN: no IVFs / replete lytes prn / NPO except meds / D/C Vit. D given
   hypercalcemia
   .
   # ACCESS: PICC, L E-J,
   .
   # PPX: pneumoboots (? HIT history and low platelets) / PPI
   .
   # COMM: with HCP [**Name (NI) 4863**] [**Name (NI) 4862**] (home [**Telephone/Fax (1) 4864**], cell [**Telephone/Fax (1) 4865**])
   .
   # CODE: Full confirmed with patient
   .
   # DISPO: ICU care pending above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-8-9**] 10:33 PM
   PICC Line - [**2109-8-9**] 10:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-12 09:31:00 Physician Attending Progress Note
Chief Complaint: MS changes
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo bf with DM, ESRD on HD, pulm sarcoidosis, afib, breast CA, OSA on
   BiPAP admitted with MS changes
   24 Hour Events:
 EKG - At [**2109-8-12**] 12:00 AM
   Minimally responsive yesterday, now improved . Still not back to
   baseline.
   GI consult: rec'd continued PPI, but too high risk for EGD now given
   marginal BS and difficulties with BP measurements
   Neuro: felt MS changes were toxic metabolic in origin. EEG ordered.
   Suggested MRI if feasible. As  pt was so somnolent yesterday that
   there were concerns for her ability to tolerate a trip down to the MRI
   scanner safely, this was not done
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: Unresponsive
   Allergies:
   Heparin Agents
   Hives;
   Coumadin (Oral) (Warfarin Sodium)
   Confusion/Delir
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Anesthesia Tray (Miscell.)
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2109-8-10**] 02:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Prednisone 5mg qd, SSI, panoprazole, levothyroxine, amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-12**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 79 (79 - 98) bpm
   BP: 105/50(64) {81/43(52) - 123/72(83)} mmHg
   RR: 7 (0 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.4 kg (admission): 87.7 kg
   Height: 60 Inch
             Total In:
                                                                  1,246 mL
                                                                     89 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    250 mL
                                                                     89 mL
   Blood products:
                                                                    876 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,246 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.34/49/84.[**Numeric Identifier 1625**]/25/0
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Irregularly
   irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, Ventral
   hernia
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, place not time/birthday, Movement: Not assessed,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal, Answers questions, though
   words not always sensical
   Labs / Radiology
   10.0 g/dL
   97 K/uL
   63 mg/dL
   4.6 mg/dL
   25 mEq/L
   4.6 mEq/L
   27 mg/dL
   101 mEq/L
   140 mEq/L
   33.8 %
   4.8 K/uL
        [image002.jpg]
                             [**2109-8-10**]  10:27 AM
                             [**2109-8-10**]  12:40 PM
                             [**2109-8-10**]  07:07 PM
                             [**2109-8-11**]  03:20 AM
                             [**2109-8-11**]  06:03 AM
                             [**2109-8-11**]  09:40 AM
                             [**2109-8-11**]  09:49 AM
                             [**2109-8-11**]  04:15 PM
                             [**2109-8-11**]  11:29 PM
                             [**2109-8-12**]  05:32 AM
   WBC
   6.5
   4.8
   Hct
   23.8
   25.5
   32.0
   30.3
   32.8
   33.9
   33.8
   Plt
   70
   34
   80
   86
   87
   97
   Cr
   3.6
   4.1
   4.6
   TropT
   0.12
   TCO2
   28
   Glucose
   80
   71
   63
   Other labs: PT / PTT / INR:17.4/36.5/1.6, CK / CKMB /
   Troponin-T:30/4/0.12, ALT / AST:25/40, Alk Phos / T Bili:132/2.0,
   Amylase / Lipase:155/144, D-dimer:3965 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:2.1 mmol/L, Albumin:2.7 g/dL, LDH:339 IU/L, Ca++:10.4
   mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   60 year old female with afib, sarcoidosis, OSA, ESRD on HD admitted
   with confusion:
   1. MS changes: Waxing and [**Doctor Last Name 42**], though significantly better this
   morning. Answers still non-sensical at times
        Will continue to monitor MS.
     Recs of consults teams appreciated. Potentially toxic metabolic
   (hyperCa, hypothyroidism, recent low BP
s in setting of anemia/blood
   loss).  For evaluating other factors which could make her more
   vulnerable to confusion post-HD, Echo ordered but not yet done. MRI not
   yet done yesterday due to safety concerns with level of lethargy,
   though imprving today.
   2. GI bleed/acute blood loss anemia: No further melana, and Hct has
   remained unchanged. Continue IV PPI.
   3. ESRD: to get HD today
   4. Laryngeal/cutaneous sarcoidosis: Remains on prednisone 5 mg
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-8-9**] 10:33 PM
   PICC Line - [**2109-8-9**] 10:53 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient critically ill

2109-08-13 06:54:00 Physician Resident Progress Note
Chief Complaint:
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
t know how things will work when I get home.
   How will I get to [**Last Name (NamePattern4) 4941**]?
   24 Hour Events:
   -HD 2L off yesterday, tolerated well
   -hypercalcemia is improved
   -MS improved significantly
   -appreciate neurology recommendations: MRI/MRA, EEG, LP not needed at
   this time.
   Allergies:
   Heparin Agents
   Hives;
   Coumadin (Oral) (Warfarin Sodium)
   Confusion/Delir
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Anesthesia Tray (Miscell.)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-8-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-13**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 83 (78 - 98) bpm
   BP: 83/55(62) {83/16(43) - 116/76(84)} mmHg
   RR: 7 (0 - 30) insp/min
   SpO2: 100%  2L
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.4 kg (admission): 87.7 kg
   Height: 60 Inch
             Total In:
                                                                    690 mL
                                                                    309 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    250 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,310 mL
                                                                    309 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%  2L
   ABG: ///33/
   Physical Examination
   HEENT:NCAT MMM pink conjunctiva
   CV: RRR S1S2 no murmur appreciated
   PULM: scant crackles at bilateral bases
   ABD: soft nontender, nondistended +bs, presacral edema
   EXT: WWP 2+DP pulses, no cyanosis
   SKIN: no rashes
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   56 K/uL
   9.6 g/dL
   158 mg/dL
   3.6 mg/dL
   33 mEq/L
   3.6 mEq/L
   17 mg/dL
   99 mEq/L
   140 mEq/L
   31.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2109-8-10**]  07:07 PM
                             [**2109-8-11**]  03:20 AM
                             [**2109-8-11**]  06:03 AM
                             [**2109-8-11**]  09:40 AM
                             [**2109-8-11**]  09:49 AM
                             [**2109-8-11**]  04:15 PM
                             [**2109-8-11**]  11:29 PM
                             [**2109-8-12**]  05:32 AM
                             [**2109-8-12**]  05:08 PM
                             [**2109-8-13**]  05:51 AM
   WBC
   6.5
   4.8
   9.4
   7.9
   Hct
   25.5
   32.0
   30.3
   32.8
   33.9
   33.8
   32.7
   31.9
   Plt
   70
   34
   80
   86
   87
   97
   56
   Cr
   3.6
   4.1
   4.6
   3.0
   3.6
   TCO2
   28
   Glucose
   80
   71
   63
   112
   158
   Other labs: PT / PTT / INR:17.3/33.4/1.6, CK / CKMB /
   Troponin-T:30/4/0.12, ALT / AST:26/41, Alk Phos / T Bili:126/2.0,
   Amylase / Lipase:157/124, Differential-Neuts:94.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3965 ng/mL, Fibrinogen:254
   mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.7 g/dL, LDH:324 IU/L, Ca++:9.7
   mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   60 y.o. F with type 1 DM, ESRD on HD, breast cancer, and pulmonary
   sarcoidosis who was at scheduled hemodialysis session when she was
   noted to become unresponsive for 8 minutes with normal vital signs.
   # Altered Mental Status:  Pt has history of unresponsive episodes that
   are likely to to fluid shifs during HD. Per daughter this has happened
   once before and the patient took 1 week to recover.  Etiology still
   unclear, most likely hypotension vs. hypercalcemia vs. GI bleed vs.
   hypothyroid (or a result of all of these contributing factors.   Most
   likely etiology given occurrence during HD is hypotension In setting of
   GI bleed.
   - Will closely monitor MS [**First Name (Titles) **] [**Last Name (Titles) 4941**].  MS improved today.
   - chronic prednisone [**First Name8 (NamePattern2) **] [**Last Name (un) 45**] stim is not useful, could consider stress
   dose steroids to see if she responds.
   - Neuro recommends EEG and MRI -> Would defer MRI or other imaging
   (other than EEG) given improvement today and waxing and [**Doctor Last Name 42**] MS.
   # GI Bleed: Abd pain improved, melena resolved.  Hct to 33 and stable
   afte 2 U PRBC.  GI following.
   - check hct qday since stable
   - IV PPI
   -GI indicated that probably would not scope given improved melena and
   stable HCT post transfusion
   # Hypothyroisim: Synthroid increased to 50 (from 25).  T4 Nl.  T3
   mildly decreased.
   # Hypercalcemia: yesterday ca of 10.5, with alb corrects to >11.0.
   Improving.
   -continue to monitor
   # Thrombocytopenia: Plt trend up today to 87. DIC much less likely
   given nl fibrinogen, minimal schisto on smear, and gradual decline. ?
   vancomcyin induced thrombocytopenia from previous notes.
   -follow CBC
   - transfuse for plt >50 given ? of GI bleed.
   .
   # ESRD: Scheduled HD on T/Th/Sat.  Followed by Dr. [**First Name8 (NamePattern2) 208**] [**Last Name (NamePattern1) 2759**] at
   [**Hospital1 54**].
   - continue sevelamer
   - monitor lytes and Cr
   - avoid nephrotoxins
   #Abdominal Pain:  Resolved today.
   - trend LFTs, amylase, lipase
   # Diabetes Mellitus, Type 1:
   - FS QID with HISS
   - hold standing home doses for now
   .
   # Hypertension: SBP 100s
   - hold antihypertensives
   .
   # Asthma: continue albuterol nebs
   .
   # Atrial Fibrillation: continue amiodarone
   .
   # Sarcoidosis: continue prednisone
   .
   # Breast Cancer: continue anastrozole
   .
   # OSA: Continue Bipap while sleeping
   # FEN: no IVFs / replete lytes prn / try to ADAT today
   .
   # ACCESS: PICC, L E-J,
   .
   # PPX: pneumoboots (? HIT history and low platelets) / PPI
   .
   # COMM: with HCP [**Name (NI) 4863**] [**Name (NI) 4862**] (home [**Telephone/Fax (1) 4864**], cell [**Telephone/Fax (1) 4865**])
   .
   # CODE: Full confirmed with patient
   .
   # DISPO: ICU care pending above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-8-9**] 10:33 PM
   PICC Line - [**2109-8-9**] 10:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-13 12:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 year old female history of HD, DM who presented after episode of
   unresponsiveness post-dialysis and brought to the ICU because of
   transient hypotension.  Now mental status improving.  No new
   complaints.
   24 Hour Events:
                   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Hives;
   Coumadin (Oral) (Warfarin Sodium)
   Confusion/Delir
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Anesthesia Tray (Miscell.)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-8-13**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no new complaints
   Flowsheet Data as of  [**2109-8-13**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.9
C (96.6
   HR: 87 (78 - 98) bpm
   BP: 103/49(61) {83/16(43) - 116/67(76)} mmHg
   RR: 12 (7 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.4 kg (admission): 87.7 kg
   Height: 60 Inch
             Total In:
                                                                    690 mL
                                                                    320 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    250 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,310 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   75 K/uL
   156
   3.6 mg/dL
   33 mEq/L
   3.6 mEq/L
   17 mg/dL
   99 mEq/L
   140 mEq/L
   31.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2109-8-11**]  03:20 AM
                             [**2109-8-11**]  06:03 AM
                             [**2109-8-11**]  09:40 AM
                             [**2109-8-11**]  09:49 AM
                             [**2109-8-11**]  04:15 PM
                             [**2109-8-11**]  11:29 PM
                             [**2109-8-12**]  05:32 AM
                             [**2109-8-12**]  05:08 PM
                             [**2109-8-13**]  05:51 AM
                             [**2109-8-13**]  12:00 PM
   WBC
   6.5
   4.8
   9.4
   7.9
   Hct
   32.0
   30.3
   32.8
   33.9
   33.8
   32.7
   31.9
   Plt
   34
   80
   86
   87
   97
   56
   75
   Cr
   3.6
   4.1
   4.6
   3.0
   3.6
   TCO2
   28
   Glucose
   80
   71
   63
   112
   158
   156
   Other labs: PT / PTT / INR:17.3/33.4/1.6, CK / CKMB /
   Troponin-T:30/4/0.12, ALT / AST:26/41, Alk Phos / T Bili:126/2.0,
   Amylase / Lipase:157/124, Differential-Neuts:94.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3965 ng/mL, Fibrinogen:254
   mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.7 g/dL, LDH:324 IU/L, Ca++:9.7
   mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   1) Mental Status Change: Improving and now responding and able to state
   month/year/place/person.
   - unclear the underlying etiology of transient MS change though might
   have been related to hypotension on hemodialysis induced, in part, from
   GI bleeding.  Now symptomns resolving.  Neuro following and would like
   MRI/MRA
   2) Hypotension: improved and likely secondary to resolved GI bleed
   3) Anemia (GI bleed):  hct now stable; GI following
   4) Hypothyroid
   5) Sarcoid: Stable; continue prednisone
   6) FEN: Advance diet as tolerated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-8-9**] 10:33 PM
   PICC Line - [**2109-8-9**] 10:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To Floor
   Total time spent: 35

2109-08-14 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2109-8-13**] 09:00 AM
 TRANSTHORACIC ECHO - At [**2109-8-13**] 02:32 PM
 MAGNETIC RESONANCE IMAGING - At [**2109-8-13**] 04:10 PM
 CALLED OUT
   Allergies:
   Heparin Agents
   Hives;
   Coumadin (Oral) (Warfarin Sodium)
   Confusion/Delir
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Anesthesia Tray (Miscell.)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-8-13**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-14**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 74 (73 - 91) bpm
   BP: 89/56(65) {88/32(50) - 146/83(97)} mmHg
   RR: 23 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.4 kg (admission): 87.7 kg
   Height: 60 Inch
                  Total In:
                                                                    660 mL
                  PO:
                                                                    580 mL
                  TF:
   IVF:
                                                                     80 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    660 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   75 K/uL
   10.0 g/dL
   178
   3.6 mg/dL
   33 mEq/L
   3.6 mEq/L
   17 mg/dL
   99 mEq/L
   140 mEq/L
   33.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2109-8-11**]  09:40 AM
                             [**2109-8-11**]  09:49 AM
                             [**2109-8-11**]  04:15 PM
                             [**2109-8-11**]  11:29 PM
                             [**2109-8-12**]  05:32 AM
                             [**2109-8-12**]  05:08 PM
                             [**2109-8-13**]  05:51 AM
                             [**2109-8-13**]  12:00 PM
                             [**2109-8-13**]  06:00 PM
                             [**2109-8-14**]  04:48 AM
   WBC
   4.8
   9.4
   7.9
   6.3
   Hct
   30.3
   32.8
   33.9
   33.8
   32.7
   31.9
   33.4
   Plt
   86
   87
   97
   56
   75
   Cr
   4.1
   4.6
   3.0
   3.6
   TCO2
   28
   Glucose
   71
   63
   112
   158
   156
   178
   Other labs: PT / PTT / INR:17.3/33.4/1.6, CK / CKMB /
   Troponin-T:30/4/0.12, ALT / AST:26/41, Alk Phos / T Bili:126/2.0,
   Amylase / Lipase:157/124, Differential-Neuts:94.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3965 ng/mL, Fibrinogen:254
   mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.7 g/dL, LDH:324 IU/L, Ca++:9.7
   mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   60 y.o. F with type 1 DM, ESRD on HD, breast cancer, and pulmonary
   sarcoidosis who was at scheduled hemodialysis session when she was
   noted to become unresponsive for 8 minutes with normal vital signs.
   # Altered Mental Status:  Pt has history of unresponsive episodes that
   are likely to to fluid shifs during HD. Per daughter this has happened
   once before and the patient took 1 week to recover.  Etiology still
   unclear, most likely hypotension vs. hypercalcemia vs. GI bleed vs.
   hypothyroid (or a result of all of these contributing factors.   Most
   likely etiology given occurrence during HD is hypotension In setting of
   GI bleed.
   - Will closely monitor MS [**First Name (Titles) **] [**Last Name (Titles) 4941**].  MS improved today.
   - chronic prednisone [**First Name8 (NamePattern2) **] [**Last Name (un) 45**] stim is not useful, could consider stress
   dose steroids to see if she responds.
   - Neuro recommends EEG and MRI -> Would defer MRI or other imaging
   (other than EEG) given improvement today and waxing and [**Doctor Last Name 42**] MS.
   # GI Bleed: Abd pain improved, melena resolved.  Hct to 33 and stable
   afte 2 U PRBC.  GI following.
   - check hct qday since stable
   - IV PPI
   -GI indicated that probably would not scope given improved melena and
   stable HCT post transfusion
   # Hypothyroisim: Synthroid increased to 50 (from 25).  T4 Nl.  T3
   mildly decreased.
   # Hypercalcemia: yesterday ca of 10.5, with alb corrects to >11.0.
   Improving.
   -continue to monitor
   # Thrombocytopenia: Plt trend up today to 87. DIC much less likely
   given nl fibrinogen, minimal schisto on smear, and gradual decline. ?
   vancomcyin induced thrombocytopenia from previous notes.
   -follow CBC
   - transfuse for plt >50 given ? of GI bleed.
   .
   # ESRD: Scheduled HD on T/Th/Sat.  Followed by Dr. [**First Name8 (NamePattern2) 208**] [**Last Name (NamePattern1) 2759**] at
   [**Hospital1 54**].
   - continue sevelamer
   - monitor lytes and Cr
   - avoid nephrotoxins
   #Abdominal Pain:  Resolved today.
   - trend LFTs, amylase, lipase
   # Diabetes Mellitus, Type 1:
   - FS QID with HISS
   - hold standing home doses for now
   .
   # Hypertension: SBP 100s
   - hold antihypertensives
   .
   # Asthma: continue albuterol nebs
   .
   # Atrial Fibrillation: continue amiodarone
   .
   # Sarcoidosis: continue prednisone
   .
   # Breast Cancer: continue anastrozole
   .
   # OSA: Continue Bipap while sleeping
   # FEN: no IVFs / replete lytes prn / try to ADAT today
   .
   # ACCESS: PICC, L E-J,
   .
   # PPX: pneumoboots (? HIT history and low platelets) / PPI
   .
   # COMM: with HCP [**Name (NI) 4863**] [**Name (NI) 4862**] (home [**Telephone/Fax (1) 4864**], cell [**Telephone/Fax (1) 4865**])
   .
   # CODE: Full confirmed with patient
   .
   # DISPO: ICU care pending above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-8-9**] 10:33 PM
   PICC Line - [**2109-8-9**] 10:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-08-14 10:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, had ECHO which showed a RV dilation and density on the
   tricuspid valves (?vegetation vs. dysfunctional valve).
   Mental status has continued to improve.
   24 Hour Events:
 EEG - At [**2109-8-13**] 09:00 AM
 TRANSTHORACIC ECHO - At [**2109-8-13**] 02:32 PM
 MAGNETIC RESONANCE IMAGING - At [**2109-8-13**] 04:10 PM
 BLOOD CULTURED - At [**2109-8-14**] 12:00 AM
 BLOOD CULTURED - At [**2109-8-14**] 05:36 AM
 CALLED OUT
   History obtained from Patient
   Allergies:
   Heparin Agents
   Hives;
   Coumadin (Oral) (Warfarin Sodium)
   Confusion/Delir
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Anesthesia Tray (Miscell.)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-8-14**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: No fevers/chills, no chest pain, no shortness of
   breath, no cough, no vomiting/diarrhea, no headaches, or other
   complaints at this time.
   Flowsheet Data as of  [**2109-8-14**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 80 (73 - 91) bpm
   BP: 125/84(93) {88/32(50) - 146/84(97)} mmHg
   RR: 25 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 89.6 kg (admission): 87.7 kg
   Height: 60 Inch
             Total In:
                                                                    660 mL
                                                                     10 mL
   PO:
                                                                    580 mL
             TF:
   IVF:
                                                                     80 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    660 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   84 K/uL
   130
   4.6 mg/dL
   31 mEq/L
   3.5 mEq/L
   21 mg/dL
   97 mEq/L
   139 mEq/L
   33.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2109-8-11**]  04:15 PM
                             [**2109-8-11**]  11:29 PM
                             [**2109-8-12**]  05:32 AM
                             [**2109-8-12**]  05:08 PM
                             [**2109-8-13**]  05:51 AM
                             [**2109-8-13**]  12:00 PM
                             [**2109-8-13**]  06:00 PM
                             [**2109-8-14**]  12:00 AM
                             [**2109-8-14**]  04:48 AM
                             [**2109-8-14**]  06:00 AM
   WBC
   4.8
   9.4
   7.9
   6.3
   Hct
   32.8
   33.9
   33.8
   32.7
   31.9
   33.4
   Plt
   86
   87
   97
   56
   75
   84
   Cr
   4.1
   4.6
   3.0
   3.6
   4.6
   Glucose
   71
   63
   112
   158
   156
   178
   140
   135
   130
   Other labs: PT / PTT / INR:16.3/30.9/1.4, CK / CKMB /
   Troponin-T:30/4/0.12, ALT / AST:25/38, Alk Phos / T Bili:136/1.6,
   Amylase / Lipase:189/163, Differential-Neuts:94.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3965 ng/mL, Fibrinogen:254
   mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.2 g/dL, LDH:350 IU/L,
   Ca++:10.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   1) Mental status change
 improved; could not fit in the MRI machine
   but at this point may not be necessary given her clinical improvement.
   Can discuss with neurology and have followed up on the medical [**Hospital1 **].
   2) Valvular Dysfunction vs. endocarditis vs sarcoid-related valvular
   problem: Cardiology consult
   3) ESRD: hemodialysis today
   4) Thrombocytopenia:
   5) Sarcoidosis:
   Addendum: Cardiology states ECHO findings not consistent with valvular
   problems seen with sarcoid as patient does not have restrictive
   physiology.  Clinically does not necessarily fit with endocarditis but
   cannot rule out particularly given ESRD and chronic prednisone.  They
   would like several more culture sets prior to any decision for
   antibiotics.  Thus, at this time, we will obtain several more sets of
   cultures and then plan to begin antibiotics as I think that given
   ESRD/prednisone usage, it is hard to discern whether these findings
   represent sub-acute endocarditis or not.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-8-9**] 10:33 PM
   PICC Line - [**2109-8-9**] 10:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To floor
   Total time spent: 35

2109-08-14 15:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2109-8-13**] 09:00 AM
 TRANSTHORACIC ECHO - At [**2109-8-13**] 02:32 PM
 MAGNETIC RESONANCE IMAGING - At [**2109-8-13**] 04:10 PM
 BLOOD CULTURED - At [**2109-8-14**] 12:00 AM
 BLOOD CULTURED - At [**2109-8-14**] 05:36 AM
 CALLED OUT
   Allergies:
   Heparin Agents
   Hives;
   Coumadin (Oral) (Warfarin Sodium)
   Confusion/Delir
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Anesthesia Tray (Miscell.)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-8-14**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-8-14**] 03:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.6
   HR: 89 (73 - 93) bpm
   BP: 123/54(71) {88/32(50) - 149/86(97)} mmHg
   RR: 23 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 89.6 kg (admission): 87.7 kg
   Height: 60 Inch
             Total In:
                                                                    660 mL
                                                                    310 mL
   PO:
                                                                    580 mL
                                                                    300 mL
   TF:
   IVF:
                                                                     80 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    660 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   84 K/uL
   10.0 g/dL
   130
   4.6 mg/dL
   31 mEq/L
   3.5 mEq/L
   21 mg/dL
   97 mEq/L
   139 mEq/L
   33.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2109-8-11**]  11:29 PM
                             [**2109-8-12**]  05:32 AM
                             [**2109-8-12**]  05:08 PM
                             [**2109-8-13**]  05:51 AM
                             [**2109-8-13**]  12:00 PM
                             [**2109-8-13**]  06:00 PM
                             [**2109-8-14**]  12:00 AM
                             [**2109-8-14**]  04:48 AM
                             [**2109-8-14**]  06:00 AM
                             [**2109-8-14**]  12:00 PM
   WBC
   4.8
   9.4
   7.9
   6.3
   Hct
   33.9
   33.8
   32.7
   31.9
   33.4
   Plt
   87
   97
   56
   75
   84
   Cr
   4.6
   3.0
   3.6
   4.6
   Glucose
   63
   112
   158
   156
   178
   140
   135
   130
   130
   Other labs: PT / PTT / INR:16.3/30.9/1.4, CK / CKMB /
   Troponin-T:30/4/0.12, ALT / AST:25/38, Alk Phos / T Bili:136/1.6,
   Amylase / Lipase:189/163, Differential-Neuts:94.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:3965 ng/mL, Fibrinogen:254
   mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.2 g/dL, LDH:350 IU/L,
   Ca++:10.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   60 y.o. F with type 1 DM, ESRD on HD, breast cancer, and pulmonary
   sarcoidosis who was at scheduled hemodialysis session when she was
   noted to become unresponsive for 8 minutes with normal vital signs.
   # Altered Mental Status:  Pt has history of unresponsive episodes that
   are likely to to fluid shifs during HD. Per daughter this has happened
   once before and the patient took 1 week to recover.  Etiology still
   unclear, most likely hypotension vs. hypercalcemia vs. GI bleed vs.
   hypothyroid (or a result of all of these contributing factors.   Most
   likely etiology given occurrence during HD is hypotension In setting of
   GI bleed.
   - Will closely monitor MS [**First Name (Titles) **] [**Last Name (Titles) 4941**].  MS improved today.
   - chronic prednisone [**First Name8 (NamePattern2) **] [**Last Name (un) 45**] stim is not useful, could consider stress
   dose steroids to see if she responds.
   - Neuro recommends EEG and MRI -> Would defer MRI or other imaging
   (other than EEG) given improvement today and waxing and [**Doctor Last Name 42**] MS.
   # GI Bleed: Abd pain improved, melena resolved.  Hct to 33 and stable
   afte 2 U PRBC.  GI following.
   - check hct qday since stable
   - IV PPI
   -GI indicated that probably would not scope given improved melena and
   stable HCT post transfusion
   # Hypothyroisim: Synthroid increased to 50 (from 25).  T4 Nl.  T3
   mildly decreased.
   # Hypercalcemia: yesterday ca of 10.5, with alb corrects to >11.0.
   Improving.
   -continue to monitor
   # Thrombocytopenia: Plt trend up today to 87. DIC much less likely
   given nl fibrinogen, minimal schisto on smear, and gradual decline. ?
   vancomcyin induced thrombocytopenia from previous notes.
   -follow CBC
   - transfuse for plt >50 given ? of GI bleed.
   .
   # ESRD: Scheduled HD on T/Th/Sat.  Followed by Dr. [**First Name8 (NamePattern2) 208**] [**Last Name (NamePattern1) 2759**] at
   [**Hospital1 54**].
   - continue sevelamer
   - monitor lytes and Cr
   - avoid nephrotoxins
   #Abdominal Pain:  Resolved today.
   - trend LFTs, amylase, lipase
   # Diabetes Mellitus, Type 1:
   - FS QID with HISS
   - hold standing home doses for now
   .
   # Hypertension: SBP 100s
   - hold antihypertensives
   .
   # Asthma: continue albuterol nebs
   .
   # Atrial Fibrillation: continue amiodarone
   .
   # Sarcoidosis: continue prednisone
   .
   # Breast Cancer: continue anastrozole
   .
   # OSA: Continue Bipap while sleeping
   # FEN: no IVFs / replete lytes prn / try to ADAT today
   .
   # ACCESS: PICC, L E-J,
   .
   # PPX: pneumoboots (? HIT history and low platelets) / PPI
   .
   # COMM: with HCP [**Name (NI) 4863**] [**Name (NI) 4862**] (home [**Telephone/Fax (1) 4864**], cell [**Telephone/Fax (1) 4865**])
   .
   # CODE: Full confirmed with patient
   .
   # DISPO: ICU care pending above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2109-8-9**] 10:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: